US07842758B2
4,7-Bis[(trimethylsilyl)ethynyl]benzo[c][1,2,5]thiadiazole
4,7-Dibromobenzo[c][1,2,5]thiadiazole (1.02 g, 3.47×10−3 mol), Pd(PPh3)4 (0.207 g, 1.79×10−4 mol), CuI (0.029 g, 1.5×10−4 mol), THF (30 ml), diethylamine (3.0 ml) and (trimethylsilyl)acetylene (6.00 ml, 4.25×10−2 mol) were added to a 100-ml Schlenk tube. N2 was bubbled through the mixture for 5 min, following which the reaction was stirred at 45° C. for 20 h under N2. After cooling, the solvent was evaporated and the residue was chromatographed on silica gel with 1:1 hexanes:CHCl3 as the eluant. Yield=1.05 g (92% based on 1.02 g of 4,7-dibromobenzothiadiazole). 1H NMR (360 MHz, CDCl3): δ 7.70 (s, 2H, Ph-H), 0.33 (s, 18H, —Si—CH3). Chemical Ionization MS m/z: 328.0880 (M+) (calcd 328.089).

reactant | 4,7-Dibromobenzo[c][1,2,5]thiadiazole | 3.47×10−3 mol, 1.02 g | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
reactant | diethylamine | 3.0 ml | C(C)NCC | C4H11N
reactant | (trimethylsilyl)acetylene | 4.25×10−2 mol, 6.00 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)4 | 1.79×10−4 mol, 0.207 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 1.5×10−4 mol, 0.029 g | [Cu]I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4,7-Bis[(trimethylsilyl)ethynyl]benzo[c][1,2,5]thiadiazole | C[Si](C)(C)C#CC1=CC=C(C2=NSN=C21)C#C[Si](C)(C)C | C16H20N2SSi2
